US05104890
A mixture of trans-3-bromo-3,4-dihydro-4-hydroxy-N,N,2,2-tetramethyl-2H-1-benzopyran-6-sulfonamide (19.2 g), potassium carbonate (15 g) and dimethylformamide (153 ml) was stirred at room temperature for 24 hours and followed by at 35° C. for 48 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated to give 3,4-dihydro-3,4-epoxy-N,N,2,2-tetramethyl-2H-1-benzopyran-6-sulfonamide (4.7 g).

reactant | trans-3-bromo-3,4-dihydro-4-hydroxy-N,N,2,2-tetramethyl-2H-1-benzopyran-6-sulfonamide | 19.2 g | Br[C@@H]1C(OC2=C([C@H]1O)C=C(C=C2)S(=O)(=O)N(C)C)(C)C | C13H18BrNO4S
reactant | potassium carbonate | 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 153 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,4-dihydro-3,4-epoxy-N,N,2,2-tetramethyl-2H-1-benzopyran-6-sulfonamide | 4.7 g | O1C2C(OC3=C(C21)C=C(C=C3)S(=O)(=O)N(C)C)(C)C | C13H17NO4S
